US07241761B2
(a) 6-Methoxy-2-piperazin-1-yl-benzothiazole
A mixture of 1.50 mmol 2-chloro-6-methoxybenzothiazole (CA=[2605-14-3]), 4.51 mmol of piperazine and 4.51 mmol of triethylamine in 5 ml of tetrahydrofuran in a sealed tube was heated at 160° C. for 5 min under microwave irradiation. The reaction mixture was concentrated, and the residue was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a white solid.

reactant | 2-chloro-6-methoxybenzothiazole | 1.50 mmol | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | piperazine | 4.51 mmol | N1CCNCC1 | C4H10N2
reactant | triethylamine | 4.51 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-Methoxy-2-piperazin-1-yl-benzothiazole | COC1=CC2=C(N=C(S2)N2CCNCC2)C=C1 | C12H15N3OS
